US03983245
A mixture of 5.0 g. (0.0388 mol.) of N-ethyl-3-hydroxymethylpyrrolidine and 50 ml. of 48% hydrogen bromide was refluxed for 17 hours. The reaction mixture was cooled, made basic by addition of solid sodium carbonate and extracted twice with methylene chloride. The combined extracts were dried (MgSO4) and evaporated to dryness to give 3-bromomethyl-N-ethylpyrrolidine.

reactant | N-ethyl-3-hydroxymethylpyrrolidine | 0.0388 mol | C(C)N1CC(CC1)CO | C7H15NO
reactant | hydrogen bromide | Br | BrH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-bromomethyl-N-ethylpyrrolidine | BrCC1CN(CC1)CC | C7H14BrN
